US04611080
28.8 g (0.1 mole) of 2,2-dichlorovinyl 2,4-dichloro-5-fluoro-phenyl ketone are added in portions to a solution of 4.6 g of sodium in 80 ml of absolute ethanol at 0°-5° C., while cooling (ice/methanol) and stirring. When the exothermic reaction has subsided, the mixture is stirred at room temperature for a further 30 minutes, the solvent is stripped off in vacuo and the residue is taken up in 100 ml of methylene chloride. The mixture is shaken thoroughly with 100 ml of 2N sulphuric acid, the methylene chloride solution is separated off in a separating funnel and the aqueous phase is extracted another three times with 50 ml of methylene chloride each time. The combined methylene chloride solutions are washed with 100 ml of saturated sodium chloride solution and dried over sodium sulphate. The solvent is then distilled off in vacuo. The brown oily residue crystallizes on standing. Distillation under a fine vacuum gives 22.3 g (79.9%) of ethyl 2,4-dichloro-5-fluoro-benzoylacetate of boiling point 125°-126° C./0.16 mbar. Colorless crystals of melting point 44°-45° C.

reactant | 2,2-dichlorovinyl 2,4-dichloro-5-fluoro-phenyl ketone | 0.1 mole, 28.8 g | ClC1=C(C=C(C(=C1)Cl)F)C(=O)C=C(Cl)Cl | C9H3Cl4FO
reactant | sodium | 4.6 g | [Na] | Na
reactant | sulphuric acid | 2N, 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2,4-dichloro-5-fluoro-benzoylacetate | 22.3 g, 79.9% | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)Cl)F | C11H9Cl2FO3
